US05614544
(E)-3-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethyl]phenyl]-2-propenol was oxidized with activated manganese dioxide in the same manner as in Reference Example 25 to yield 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]cinnamaldehyde, which was then recrystallized from ethyl acetate-hexane to yield colorless prisms having a melting point of 99°-100° C.

reactant | (E)-3-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethyl]phenyl]-2-propenol | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(C=C1)/C=C/CO | C21H21NO2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]cinnamaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(C=CC=O)C=C1 | C21H19NO2
